data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(F)cc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)cc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)cc1Cl)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)cc2Cl)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)cc2Cl)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)cc2Cl)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)cc2Cl)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)cc2Cl)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)cc2Cl)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(F)cc2Cl)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C)cc1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)cc1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)cc1)C(C)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)CC)c([Si](C)(C)C)c2F", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(c(F)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccccc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1F)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccccc2F)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccccc2F)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccccc2F)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccccc2F)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccccc2F)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccccc2F)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccccc2F)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CCc1ccccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "CCc1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "CCc1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "CCc1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "CCc1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "CCc1ccccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "CCc1ccccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CCc1ccccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "CCc1ccccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "CCc1ccccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "CCc1ccccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "CCc1ccccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "CCc1ccccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "CCc1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "CCc1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "CCc1ccccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1cccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1cccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1cccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
